US07601722B2
1-(2-morpholin-2-ylethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide
To a solution of 1-phenyl-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.2 g, 0.8 mmol) in THF (10 mL) was added triphenylphosphine (0.26 g, 1 mmol), tert-butyl 2-(2-hydroxyethyl)morpholine-4-carboxylate (0.2 g, 0.9 mmol) and DIAD (0.2 g, 1 mmol) at 0° C. The mixture was allowed to warm to ambient temperature overnight then concentrated and chromatographed on silica gel (0 to 40% EtOAC in hexane). The resulting mostly pure carbamate was dissolved in dichloromethane (10 mL) and treated with HCL (4 mL, 4M in dioxane). The resulting salt was chromatographed on silica (0 to 100% of (7N NH3/MeOH) in dichloromethane) giving the desired product as a clear oil (0.23 g, 80%). HRMS: calcd for C18H21N3O3S+H+, 360.1376; found (ESI, [M+H]+), 360.1377.

reactant | 1-phenyl-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.8 mmol, 0.2 g | C1(=CC=CC=C1)N1S(NC2=C1C=CC=C2)(=O)=O | C12H10N2O2S
reactant | triphenylphosphine | 1 mmol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 2-(2-hydroxyethyl)morpholine-4-carboxylate | 0.9 mmol, 0.2 g | OCCC1CN(CCO1)C(=O)OC(C)(C)C | C11H21NO4
reactant | DIAD | 1 mmol, 0.2 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-morpholin-2-ylethyl)-3-phenyl-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.23 g, 80% | N1CC(OCC1)CCN1S(N(C2=C1C=CC=C2)C2=CC=CC=C2)(=O)=O | C18H21N3O3S
